US05571775
35. Preparation of 2-Benzylthio-8-chloro-5-methoxy[1,2,4]triazolo[1,5-a]pyridine
2-Benzylthio-5,8-dichloro[1,2,4]triazolo[1,5-a]pyridine (6.0 g, 0.019 mol) and 25 percent sodium methoxide in methanol (26.5 mL, 6.3 g, 0.116 mol) were combined in methanol and the mixture was heated to reflux for 2 hours. The mixture was then cooled, acidified with acetic acid, and concentrated by evaporation under reduced pressure. The residue was dissolved in dichloromethane and the solution was washed with water and concentrated by evaporation under reduced pressure. The residue was triturated with hexane and the resulting solids were collected by filtration and dried to obtain 5.76 g 99 percent of theory) of the title compound as a light tan powder melting at 90°-91° C.

reactant | 2-Benzylthio-5,8-dichloro[1,2,4]triazolo[1,5-a]pyridine | 0.019 mol, 6.0 g | C(C1=CC=CC=C1)SC1=NN2C(C(=CC=C2Cl)Cl)=N1 | C13H9Cl2N3S
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | methanol | 0.116 mol, 26.5 mL, 6.3 g | CO | CH4O
product | 2-Benzylthio-8-chloro-5-methoxy[1,2,4]triazolo[1,5-a]pyridine | C(C1=CC=CC=C1)SC1=NN2C(C(=CC=C2OC)Cl)=N1 | C14H12ClN3OS
